US05559141
e) 4-[1-(4-cyanophenyl)-4-phenylbutyl]-1H-imidazole
1-benzyl-5-[1-(4-cyanophenyl)-4-phenyl-1-butenyl]-1H-imidazole hydrochloride (1,77 g) is dissolved in ethanol and a catalytic amount of 10% Pd/C is added. The reaction mixture is agitated vigorously at room temperature in hydrogen atmosphere until the reduction of the double bond and the debenzylation are complete. The reaction mixture is filtered and evaporated to dryness. The product is purified by flash chromatography.

reactant | 1-benzyl-5-[1-(4-cyanophenyl)-4-phenyl-1-butenyl]-1H-imidazole hydrochloride | 1,77 g | Cl.C(C1=CC=CC=C1)N1C=NC=C1C(=CCCC1=CC=CC=C1)C1=CC=C(C=C1)C#N
solvent | ethanol | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 4-[1-(4-cyanophenyl)-4-phenylbutyl]-1H-imidazole | C(#N)C1=CC=C(C=C1)C(CCCC1=CC=CC=C1)C=1N=CNC1 | C20H19N3
